US07135550B2
45.2 g 1-(4-Benzyloxy-phenyl) ethanone (200 mmol) was taken up in THF (250 mL) and treated with CF3CO2Et (30 ml, 250 mmol). The solution was cooled to 0° C. and treated with 2.66 M NaOEt (94 ml, 250 mmol) solution over 1 h. The ice bath was removed and the solution was stirred at room temperature for 4 h. The reaction was poured into 1N HCl (1000 ml) and extracted with EtOAc (1500 ml). The organic layer was washed with brine, dried and evaporated to yield 64.2 g 1-(4-Benzyloxy-phenyl)-4,4,4-trifluoro-butane-1,3-dione (200 mmol, 100% yield).

reactant | 1-(4-Benzyloxy-phenyl) ethanone | 200 mmol, 45.2 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C(C)=O | C15H14O2
reactant | CF3CO2Et | 250 mmol, 30 ml | C(F)(F)(F)C(=O)OCC | C4H5F3O2
reactant | NaOEt | 250 mmol, 2.66 M, 94 ml | CC[O-].[Na+]
solvent | THF | 250 mL | C1CCOC1 | C4H8O
product | 1-(4-Benzyloxy-phenyl)-4,4,4-trifluoro-butane-1,3-dione | 200 mmol, 64.2 g, 100% yield | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C(CC(C(F)(F)F)=O)=O | C17H13F3O3
